US07807676B2
A mixture of 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (300 mg, 0.586 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine-1-carboxylate (250 mg, 0.644 mmol), Na2CO3 (310 mg, 2.93 mmol) and PdCl2(dppf)2-CH2Cl2 adduct (47.8 mg, 0.059 mmol) in water (1.000 mL) and 1,4-dioxane (1 mL) was heated up at 80° C. for 2 h. The reaction mixture was cooled to room temperature, filtered through a silica gel pad and concentrated under reduced pressure. The resulting crude was purified by prep HPLC to give tert-butyl 4-(4-(4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)phenyl)piperazine-1-carboxylate (250 mg, 62%) as white solid. LCMS: m/e 694.36 (M+H)+, ret time 1.68 min (method 8). 1H NMR (500 MHz, MeOD) δ ppm 1.52 (s, 9H) 3.41-3.46 (m, 4H) 3.47-3.51 (m, 2H) 3.52-3.56 (m, 2H) 3.64 (m, 4H) 3.69-3.75 (m, 2H) 3.86-3.95 (m, 2H) 4.17 (s, 3H) 7.28 (d, J=8.54 Hz, 2H) 7.63 (dd, J=7.63, 4.88 Hz, 1H) 7.77 (d, J=8.55 Hz, 2H) 7.90 (d, J=8.24 Hz, 1H) 8.00 (s, 1H) 8.17 (t, J=7.78 Hz, 1H) 8.68 (s, 2H)

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.586 mmol, 300 mg | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)OC | C20H18BrN9O3
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine-1-carboxylate | 0.644 mmol, 250 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C21H33BN2O4
reactant | Na2CO3 | 2.93 mmol, 310 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 1.000 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf)2 CH2Cl2 | 0.059 mmol, 47.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-butyl 4-(4-(4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)phenyl)piperazine-1-carboxylate | 250 mg, 62% | COC1=C2C(=C(N=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)=O | C35H39N11O5
